US04735940
1.8 g of methyl 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate are dissolved in 32 ml of chloroform, whereupon the solution was treated at 0° with 0.55 ml of bromine in 1 ml of chloroform and stirred at room temperature overnight. After washing with 2N sodium hydroxide solution and saturated sodium chloride solution, drying over magnesium sulfate and evaporation, the residue in toluene/ethyl acetate (4:1) was chromatographed on silica gel. There was obtained pure methyl 2-bromo-4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate of m.p. 170.5°-171° (from isopropanol).

reactant | methyl 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate | 1.8 g | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)OC)SC=C3 | C19H15NO3S
reactant | bromine | 0.55 ml | BrBr | Br2
solvent | chloroform | 32 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-bromo-4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate | BrC1=CC2=C(C3=C(C=C(C(N3CC2)=O)C2=CC=CC=C2)C(=O)OC)S1 | C19H14BrNO3S
